US05610192
Synthesis of 3-Hydroxy-2-naphthoic (2, 7-dihydroxy-1-naphthylmethylene) hydrazide (III45A)
Following the general procedure of Example 1, condensation of 2, 7-dihydroxy-1-naphthaldehyde and 3-hydroxy-2-naphthoic hydrazide yielded yellow crystals (83%) [recrystallized from DMSO/H2O (8:2, v/v)]: mp225° C. (dec); 1H NMR d 12.75 (s, 1 H), 12.24 (s, 1 H), 11.27 (s, 1 H), 9.93 (s, 1 H), 9.40 (s, 1H), 8.50 (s, 1 H), 7.95 (d, 1 H, J=8.1 Hz), 7.80 (d, 2 H, J=8.7 Hz), 7.73 (d, 1 H, J=8.7 Hz), 7.54 (t, 1 H, J=7.5 Hz), 7.39 (t, 1 H, J=7.5 Hz), 7.37 (s, 1 H), 6.98 (d, 2 H, J=8.7 Hz); HRMS Calcd for C22H16N2O4 :372.1110, found 372.1099; Anal. (C22H16N2O4 1.4 DMSO) C, H, N.

reactant | 2, 7-dihydroxy-1-naphthaldehyde | OC1=C(C2=CC(=CC=C2C=C1)O)C=O | C11H8O3
reactant | 3-hydroxy-2-naphthoic hydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
product | 3-Hydroxy-2-naphthoic (2, 7-dihydroxy-1-naphthylmethylene) hydrazide | OC1=C(C2=CC(=CC=C2C=C1)O)C=NNC(=O)C1=CC2=CC=CC=C2C=C1O | C22H16N2O4
